US07820704B2
To a solution of [4-(4-isopropyl-phenyl)-pyrimidin-2-yl]-thiophen-2-ylmethyl-amine (50 mg, 0.16 mmol) in DCM (2 mL) was added triethylamine (33 μL, 0.24 mmol) and methyl 2-isocyanatobenzoate (32 mg, 0.18 mmol). The resulting reaction mixture was heated in a CEM Exployer PLS™ microwave at 100° C. for 30 min. After cooling to room temperature the solvent was evaporated. Purification was carried out by silica gel chromatography eluting with hexanes/ethyl acetate 9:1 to give 2 mg of 2-{3-[4-(4-isopropyl-phenyl)-pyrimidin-2-yl}-3-thiophen-2-ylmethyl-ureido}-benzoic acid methyl ester. LCMS m/z: 488 (M+1)+.

reactant | [4-(4-isopropyl-phenyl)-pyrimidin-2-yl]-thiophen-2-ylmethyl-amine | 0.16 mmol, 50 mg | C(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1)NCC=1SC=CC1 | C18H19N3S
reactant | triethylamine | 0.24 mmol, 33 μL | C(C)N(CC)CC | C6H15N
reactant | methyl 2-isocyanatobenzoate | 0.18 mmol, 32 mg | N(=C=O)C1=C(C(=O)OC)C=CC=C1 | C9H7NO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-{3-[4-(4-isopropyl-phenyl)-pyrimidin-2-yl}-3-thiophen-2-ylmethyl-ureido}-benzoic acid methyl ester | 2 mg | COC(C1=C(C=CC=C1)NC(=O)N(CC=1SC=CC1)C1=NC=CC(=N1)C1=CC=C(C=C1)C(C)C)=O | C27H26N4O3S
